US07557213B2
Preparation of 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1-(6-trifluoromethyl-pyridin-2-ylmethyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one 70 mg (0.228 mmol) and 71.1 mg (0.296 mmol) of 2-Bromomethyl-6-trifluoromethyl-pyridine, to give 20 mg of desired compound. LCMS (M+H)+: 467.1.

reactant | 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one | 0.228 mmol, 70 mg | O1CCOC2=C1C=CC(=C2)C(=O)C2=CNC1=CC=CC=C1C2=O | C18H13NO4
reactant | 2-Bromomethyl-6-trifluoromethyl-pyridine | 0.296 mmol, 71.1 mg | BrCC1=NC(=CC=C1)C(F)(F)F | C7H5BrF3N
product | 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1-(6-trifluoromethyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | 20 mg | O1CCOC2=C1C=CC(=C2)C(=O)C2=CN(C1=CC=CC=C1C2=O)CC2=NC(=CC=C2)C(F)(F)F | C25H17F3N2O4
